* ============================================================================
* Pultec EQP-1A — Passive EQ + 12AX7/12AU7 Tube Makeup, FLAT configuration
* PedalKernel Validation Circuit (bead pedalkernel-hcpb.3)
* ============================================================================
*
* Mirrors pultec_eqp1a_passive_makeup.pedal exactly (no transformers).
* Supply: 285V B+ with 1k impedance.
*
* Pot model: WdfPot rp = taper.apply(pos) * max_R, min = max_R * 0.001
*   Audio taper (A): taper.apply(p) = (10^p - 1) / 9
*   Linear taper (B): taper.apply(p) = p
*   Minimum resistance floor: max_R * 0.001 = 10k * 0.001 = 10Ω
*
* Control positions (FLAT — all EQ off, default 0.0 except HF_BW=0.5):
*   LF_Boost = 0.0  → rp = (10^0-1)/9 * 10k = 0 → floored at 10Ω
*   LF_Atten = 0.0  → rp = 10Ω
*   HF_Boost = 0.0  → rp = 10Ω
*   HF_BW    = 0.5  → rp = 0.5 * 10k = 5000Ω (linear taper B)
*   HF_Atten = 0.0  → rp = 10Ω
*
* Switched-cap values (frozen at position 0 = index 0):
*   CPS     = 100n  (0.1u → 20 Hz LF corner)
*   KCS     = 5600p (5.6n → ~3.1 kHz HF boost tank)
*   HFA_sel = 3300p (3.3n → ~5 kHz HF atten corner)
*
* Source: R_in = 600Ω. Load: R_load = 100k (passive termination).
* Supply: Vb = 285V, Zb = 1k.
* Output node: v_out (after C_out coupling cap, before R_out load).
*
* Convergence recipe (stiff-deck):
*   RELTOL=5e-3 ABSTOL=1e-9 VNTOL=1e-6
*   METHOD=TRAP MAXORD=2 DELMAX=5e-6
*   ITL1=2000 ITL2=500 ITL4=200
*   .ic for tube operating points
* ============================================================================

* B+ supply (285V with 1k source impedance)
Vb   vb  vb_raw  0
Rb   vb_raw  0  1
Vbsrc  vb_raw  0  DC 285

* Source impedance
Rin   v_in   n_lf   600

* ── LOW FREQUENCY shelf ──────────────────────────────────────────────────────
Llf   n_lf   n_lb   2H
* LF_Boost at 0.0: rp = 10Ω
R_lfboost  n_lb  0  10

Ccps  n_lf   n_la   100n
* LF_Atten at 0.0: rp = 10Ω
R_lfatten  n_la  0  10

* Series bridge to HF section
Rlf   n_lf   n_hf   56k

* ── HIGH FREQUENCY BOOST section ─────────────────────────────────────────────
Lhf   n_hf   n_hfb  47m
Ckcs  n_hf   n_hfb  5600p
* HF_Boost at 0.0: rp = 10Ω
R_hfboost  n_hfb  0  10

* HF_BW at 0.5 (linear taper): rp = 0.5 * 10k = 5000Ω
R_hfbw  n_hf  0  5000

* ── HIGH FREQUENCY ATTEN shelf ───────────────────────────────────────────────
Chfas  n_hf   n_hfa_sw  3300p
* HF_Atten at 0.0: rp = 10Ω
R_hfatten  n_hfa_sw  0  10

* Bridge to n_out
Rhfa  n_hf   n_out   100k

* Passive load
Rload  n_out  0  100k

* ── 12AX7 Koren triode — common-cathode gain stage ───────────────────────────
* Grid: n_out (via direct connection — no coupling cap into grid as in pedal)
* Plate load: Rp1 = 100k to B+
* Cathode: Rk1 = 1.5k, bypassed by Ck1 = 25u
Rp1   vb   n_plate1  100k
X1    n_plate1  n_out  n_cath1  TRIODE_12AX7
Rk1   n_cath1  0  1.5k
Ck1   n_cath1  0  25u

* ── Interstage coupling 12AX7 plate → 12AU7 grid ────────────────────────────
Cc    n_plate1  n_grid2  0.047u
Rg2   n_grid2  0  1MEG

* ── 12AU7 Koren triode — cathode follower ────────────────────────────────────
* Plate: directly to B+
* Cathode: Rk2 = 10k to ground
X2    vb   n_grid2  n_cath2  TRIODE_12AU7
Rk2   n_cath2  0  10k

* ── Output coupling ──────────────────────────────────────────────────────────
Cout  n_cath2  v_out  47n
Rout  v_out  0  1MEG

* ── Initial conditions for DC operating point ───────────────────────────────
.ic  V(n_plate1)=180  V(n_cath1)=1.5  V(n_grid2)=0  V(n_cath2)=2  V(v_out)=0

* ── 12AX7 Koren subcircuit ───────────────────────────────────────────────────
.SUBCKT TRIODE_12AX7 anode grid cathode
.PARAM MU=100 EX=1.4 KG1=1060 KP=600 KVB=300
Bgk gk 0 V = V(grid,cathode)
Bak ak 0 V = V(anode,cathode)
Bip anode cathode I = {
+ (PWR(
+   LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2)))))
+   * MAX(V(ak), 0.001) / KP,
+   EX)
+ / KG1)
+ * (1 + SGN(LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2))))) * MAX(V(ak),0.001) / KP)) / 2
+ }
Dgc grid cathode DGRID
.MODEL DGRID D(IS=1e-12 N=1.5 RS=1k)
.ENDS TRIODE_12AX7

* ── 12AU7 Koren subcircuit ───────────────────────────────────────────────────
* Koren parameters for 12AU7: MU=21.5, EX=1.35, KG1=1460, KP=84, KVB=300
.SUBCKT TRIODE_12AU7 anode grid cathode
.PARAM MU=21.5 EX=1.35 KG1=1460 KP=84 KVB=300
Bgk gk 0 V = V(grid,cathode)
Bak ak 0 V = V(anode,cathode)
Bip anode cathode I = {
+ (PWR(
+   LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2)))))
+   * MAX(V(ak), 0.001) / KP,
+   EX)
+ / KG1)
+ * (1 + SGN(LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2))))) * MAX(V(ak),0.001) / KP)) / 2
+ }
Dgc grid cathode DGRID
.MODEL DGRID D(IS=1e-13 N=1.5 RS=2k)
.ENDS TRIODE_12AU7

