* ============================================================================
* Klon Centaur v3 — Full Signal Path
* PedalKernel Legends Validation Circuit (Goldenrod)
* ============================================================================
*
* Topology (mirrors goldenrod.pedal in pedalkernel-pro/pedals/legends/):
*   1. Bias network    — R_bias1 (27k) / R_bias2 (27k) → VB+ = 4.5V
*   2. Input buffer    — U1 (TL072) unity-gain voltage follower
*   3. Gain stage      — U2 (TL072) non-inverting; feedback = R_feedbk (422k) //
*                          C_fb1 (3.9nF) // C_fb2 (47pF); ground leg = R5+R6+Gain_A
*                          Gain_A = 100k, pos=0.5 → 50k
*   4. Germanium clip  — C_clip (1µF) coupling → D1/D2 (1N34A Ge) hard clip to gnd
*                          R_clip (27k) carries clipped signal to summing amp
*   5. Feedforward 1   — R_ff1a (15k) → C_ff1 (100nF) → R_ff1b (422k) to sum
*   6. Feedforward 2   — Gain_B (100k dual-gang, pos=0.5 → 50k wiper) → R_ff2 (392k) to sum
*   7. Summing amp     — U3 (TL072) inverting summer; R_sum_fb (560k) // C_sum_fb (560pF)
*   8. Tone control    — U4 (TL072) active HP shelving; C_tone (3.9nF) + Treble (10k, pos=0.5)
*                          R_tone_shelf (4.7k) + R_tone_fb (1.8k) + R_tone_out (1.8k)
*   9. Output stage    — C_out (470nF) + Output pot (10k, pos=0.7) + anti-pop network
*
* Control positions (nominal):
*   Gain    = 0.5  → Gain_A (100k): top=50k, bot=50k; Gain_B: wiper at midpoint
*   Treble  = 0.5  → Rtreble: 5k each half
*   Output  = 0.7  → Routput_top=3k, Routput_bot=7k (audio taper approx)
*
* Supply: VCC = 9V; VB+ = 4.5V (derived from R_bias1/R_bias2 divider)
*   Note: Summing amp U3 runs on +18V/-9V in the real Klon (charge pump).
*   For this validation deck we use VB+ as the reference (matches WDF model which
*   also uses a single rail and virtual ground — charge pump headroom is beyond scope).
*
* Op-amp model: ideal VCVS (gain=100000), all four amplifiers.
*
* Diode model: 1N34A germanium (hard clip to ground)
*   Is=200n N=1.4 Rs=20 Cjo=2p  (typical 1N34A parameters)
* ============================================================================

* ---- Supply -----------------------------------------------------------------
VCC  vcc  0  DC 9

* Bias divider: VB+ = 4.5V. C_vgnd bypasses VB+ to AC ground.
R_bias1 vcc  vb1   27k
R_bias2 vb1  0     27k
C_vgnd  vb1  0     47u

* ---- Input buffer (U1: unity-gain voltage follower) -------------------------
* R1: input protection 10k. C1: DC block 100nF. R2: bias to VB+ 1M.
R1   v_in    v_r1b    10k
C1   v_r1b   v_c1b    100n
R2   v_c1b   vb1      1MEG
* U1 is a unity-gain follower: out = pos input = v_c1b
Eu1  v_u1out 0        v_c1b v_u1out  100000

* ---- Non-inverting gain stage (U2) -----------------------------------------
* R3: input resistor 1.5k to non-inverting input.
R3   v_u1out  v_u2pos  1.5k

* Feedback: R_feedbk (422k) // C_fb1 (3.9nF) // C_fb2 (47pF) from neg to out.
R_feedbk  v_u2neg  v_u2out  422k
C_fb1     v_u2neg  v_u2out  3.9n
C_fb2     v_u2neg  v_u2out  47p

* Ground leg: R5 (15k) + R6 (2k) + Gain_A (100k, pos=0.5 → top 50k, bot 50k).
* pedal: U2.neg → R5.a, R5.b → R6.a, R6.b → Gain_A.a, Gain_A.b → gnd
* At pos=0.5, Gain_A contributes 50k from R6.b to gnd.
R5     v_u2neg  v_r5b    15k
R6     v_r5b    v_r6b    2k
RgainA v_r6b    0        50k
* C_gnd (1µF) bypasses R5.b to ground (LF boost)
C_gnd  v_r5b    0        1u

Eu2    v_u2out  0        v_u2pos v_u2neg  100000

* ---- Germanium hard clipping -----------------------------------------------
* C_clip (1µF) AC-couples U2 output to diode junction.
* D1: anode at junction, clips positive swings at ~0.25V.
* D2: cathode at junction, clips negative swings at ~0.25V.
* R_clip (27k) carries clipped signal to summing amp.
C_clip   v_u2out   v_ge_jnct  1u
D1       v_ge_jnct 0          DGermanium
D2       0         v_ge_jnct  DGermanium
.model DGermanium D(Is=200n N=1.4 Rs=20 Cjo=2p)
R_clip   v_ge_jnct v_sum_clip 27k

* ---- Feedforward network 1 (clean low-pass blend) --------------------------
* R_ff1a (15k) → C_ff1 (100nF) → R_ff1b (422k) → summing amp
* fc = 1/(2π × 15k × 100n) ≈ 106Hz (adds clean low end)
R_ff1a  v_u1out   v_ff1_rc   15k
C_ff1   v_ff1_rc  v_ff1_bot  100n
R_ff1b  v_ff1_bot v_sum_ff1  422k

* ---- Feedforward network 2 (gain-dependent clean blend) --------------------
* Gain_B (100k, tracks Gain_A — same-name binding; pos=0.5 → wiper at midpoint).
* pedal: U1.out → Gain_B.a, Gain_B.w → R_ff2.a, R_ff2.b → U3.neg
* At pos=0.5: wiper at 50k from top → Vwiper = V_u1out × (50k/(50k+50k)) = 0.5×V_u1out
RgainB_top  v_u1out    v_gainB_w  50k
RgainB_bot  v_gainB_w  0          50k
R_ff2       v_gainB_w  v_sum_ff2  392k

* ---- Summing amplifier (U3: inverting summer) -------------------------------
* Three inputs to U3.neg: v_sum_clip (via R_clip), v_sum_ff1 (via R_ff1b), v_sum_ff2 (via R_ff2).
* Feedback: R_sum_fb (560k) // C_sum_fb (560pF). U3.pos = VB+.
R_sum_fb  v_u3neg  v_u3out  560k
C_sum_fb  v_u3neg  v_u3out  560p
Eu3       v_u3out  0        vb1 v_u3neg  100000
* Connect all three input resistor outputs to U3.neg via zero-ohm wires
* (direct connections — SPICE requires at least one named node)
Rw_clip  v_sum_clip  v_u3neg  1m
Rw_ff1   v_sum_ff1   v_u3neg  1m
Rw_ff2   v_sum_ff2   v_u3neg  1m

* ---- Active tone control (U4: HP shelving EQ) ------------------------------
* pedal: U3.out → R_tone_in → U4.neg; C_tone from U4.neg to Treble.a;
*   Treble.w → R_tone_shelf → U4.out; Treble.b → U4.out;
*   U4.neg → R_tone_fb → U4.out; U4.pos = VB+.
R_tone_in    v_u3out    v_u4neg    1.8k
C_tone       v_u4neg    v_ctone_b  3.9n
* Treble pot (10k, pos=0.5 → 5k each half)
Rtreble_top  v_ctone_b  v_treble_w  5k
Rtreble_bot  v_treble_w v_treble_b  5k
R_tone_shelf v_treble_w v_u4out     4.7k
* Treble.b → U4.out (direct connection via shelf resistor bot)
Rw_treble_b  v_treble_b v_u4out     1m
* DC feedback path
R_tone_fb    v_u4neg    v_u4out     1.8k
Eu4          v_u4out    0           vb1 v_u4neg  100000
R_tone_out   v_u4out    v_tone_out  1.8k

* ---- Output stage ----------------------------------------------------------
* C_out (470nF) DC-blocks. Output pot (10k, pos=0.7 audio taper).
* Audio taper at 0.7: bottom ≈ 70% → 7k, top → 3k.
* Anti-pop: R_out1 (68k) from pot input to gnd; R_out2 (68k) from wiper to out.
* R_out3 (100k) output load to ground.
C_out        v_tone_out  v_cout_b  470n
R_out1       v_cout_b    0         68k
Routput_top  v_cout_b    v_out_w   3k
Routput_bot  v_out_w     0         7k
R_out2       v_out_w     v_out     68k
R_out3       v_out       0         100k

